### PR TITLE
Corradi's intersection lemma

### PR DESCRIPTION
**Pull request by z-tech**
```
S. Jukna, *Extremal Combinatorics* (Springer, 2011)
Lemma 2.1 (Corrádi 1969).

Let A₁, A₂, ..., Aₙ be r-element sets and X be their union. If |Aᵢ ∩ Aⱼ| ≤ k
for all i ≠ j, then
  |X| ≥ r²n / (r + (n - 1)k)

Since Finset.card values are ℕ truncations can occur.
The core inequality must be stated without division, subtraction:
* `Finset.corradi_mul_le`
  n²r² + n|X|k ≤ n|X|r + n²|X|k

Casting to ℝ recovers the readable ratio form:
* `Finset.corradi_card_le_real`
  n·(r² − k·|X|) ≤ |X|·(r − k)

```
Book reference: [Extremal Combinatorics](https://www.liutianren.com/discrete/ref/Combinatorics/Stasys%20Jukna%20-%20Extremal%20Combinatorics.pdf)

Co-authored-by: Ziyi Guan <TODO - replace with github no reply email> 
Co-authored-by: Ignacio Manzur <TODO - replace with github no reply email>

---

**AI disclosure.** Portions of this file (Lean source and docstrings)
were drafted with Claude (Anthropic). The authors have reviewed the
proofs, verified they compile against current Mathlib master, and take
responsibility for the mathematical content.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SetFamily/Corradi.lean [hunk 1]
```diff
@@ -0,0 +1,156 @@
...
+
+@[expose] public section
+
+namespace Finset
+
+variable {α ι : Type*} [DecidableEq α] [Fintype ι]
+
+/-- The number of indices `i` such that `x ∈ As i`. -/
+def coverCount (As : ι → Finset α) (x : α) : ℕ :=
+  #(univ.filter fun i => x ∈ As i)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/Corradi.lean]: As mentioned on zulip, I think we shouldn't have this, and instead use the bipartite counting API.

File: Mathlib/Combinatorics/SetFamily/Corradi.lean [hunk 2]
```diff
@@ -0,0 +1,156 @@
...
+  simp_rw [coverCount, card_filter]
+  rw [sum_comm]
+  refine sum_congr rfl fun i _ => ?_
+  rw [← card_filter, filter_mem_eq_inter, inter_eq_right.mpr (h_sub i)]
+
+lemma sum_coverCount_eq_card_mul (h_sub : ∀ i, As i ⊆ A)
+    (h_size : ∀ i, #(As i) = a) :
+    ∑ x ∈ A, coverCount As x = Fintype.card ι * a := by
+  rw [sum_coverCount_eq_sum_card h_sub, sum_congr rfl (fun i _ => h_size i)]
+  rw [sum_const, card_univ, smul_eq_mul]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/Corradi.lean]: with the previous, these two should go as well, and be short to prove

File: Mathlib/Combinatorics/SetFamily/Corradi.lean [hunk 3]
```diff
@@ -0,0 +1,156 @@
...
+
+/-- Sum of squared cover-counts equals the total pairwise-intersection size
+(diagonal included). -/
+lemma sum_coverCount_sq_eq_sum_inter_card (h_sub : ∀ i, As i ⊆ A) :
+    ∑ x ∈ A, (coverCount As x) ^ 2 = ∑ p : ι × ι, #(As p.1 ∩ As p.2) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/Corradi.lean]: This one should become a private lemma. I expect it should have a short proof, even after inlining the previous things I mentioned, but let me know if you struggle to get there.

File: Mathlib/Combinatorics/SetFamily/Corradi.lean [hunk 4]
```diff
@@ -0,0 +1,156 @@
...
+  refine sum_congr rfl fun p _ => ?_
+  rw [← sum_filter, ← card_eq_sum_ones]
+  congr 1
+  ext x
+  simp only [mem_filter, mem_inter]
+  exact ⟨fun ⟨_, h₁, h₂⟩ => ⟨h₁, h₂⟩, fun ⟨h₁, h₂⟩ => ⟨h_sub _ h₁, h₁, h₂⟩⟩
+
+/-- Diagonal contributes `m · a`, off-diagonal at most `m(m-1) · b`. -/
+lemma sum_inter_card_le (h_size : ∀ i, #(As i) = a)
+    (h_pairwise : ∀ i j, i ≠ j → #(As i ∩ As j) ≤ b) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/Corradi.lean]: This condition should be written using `Pairwise`

File: Mathlib/Combinatorics/SetFamily/Corradi.lean (hunk 3 above)
Comment (b-mehta) [inline Mathlib/Combinatorics/SetFamily/Corradi.lean]: I think it makes sense to write the RHS here using a double sum rather than a sum over the product

File: Mathlib/Combinatorics/SetFamily/Corradi.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SetFamily/Corradi.lean]: (and the similar change should be made below)

**Review by b-mehta — COMMENTED** [review]
I've left a few comments to get started. This lemma should have a proof which is quite a bit shorter (claude-written code is usually at least 30% inflated, in this case it looks more like 50%)

**Comment by z-tech** [comment]
Thanks so much Bhavik! I’ll address these comments and have a new draft soon.

File: Mathlib/Combinatorics/SetFamily/Corradi.lean (hunk 3 above)
Comment (z-tech) [reply Mathlib/Combinatorics/SetFamily/Corradi.lean]: I've changed this but in some places I'm finding it's easiest to immediately change it back: https://github.com/leanprover-community/mathlib4/pull/39936/changes#diff-a35a8cadf1e5b814897819a705e06fb7488e5cf15bbbe15bfff41e5118bce434R79

Is that okay? (it's the API level change) or did you envision something else?

**Comment by z-tech** [comment]
Hi again @b-mehta.

I've given a refactor to change notation to be consistent with Jukna and address your smaller feedback. (Everything minus reducing proof length which is TODO).

Please let me know if this progress seems to be tracking toward something satisfactory.

It's quite a bit more difficult than I imagined 😅 

I've mostly focused on improving `sum_sq_degree_eq` and the others will follow. 

thanks again. There's no rush on my end for the review btw.
